2107-08-24 09:55:00 Physician Attending Progress Note
Chief Complaint: dyspnea, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68M with severe COPD, present with shortness of breath and severe
   hypotension in the setting of possibly running out of inhalers, poor po
   intake, but with elevated WBC, lactate on admission:
   24 Hour Events:
 ARTERIAL LINE - START [**2107-8-23**] 08:52 PM
   -remained fluid responsive
   -lactate elevated on arrival and remained elevated
   -pan-scan looking for source of infection
   History obtained from Patient
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2107-8-24**] 02:00 AM
   Vancomycin - [**2107-8-24**] 08:25 AM
   Bactrim (SMX/TMP) - [**2107-8-24**] 08:25 AM
   Azithromycin - [**2107-8-24**] 08:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2107-8-24**] 08:39 AM
   Other medications:
   Azithro, sqh, fosamax, ca, vitD, bactrim, hydrocort, vanco, zosyn, fent
   50, ativan bedtime
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Chest pain, No(t) Tachycardia
   Nutritional Support: No(t) NPO
   Respiratory: Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2107-8-24**] 09:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.6
   HR: 101 (78 - 110) bpm
   BP: 119/62(84) {92/41(51) - 149/69(95)} mmHg
   RR: 21 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  8,004 mL
                                                                  2,134 mL
   PO:
                                                                  1,850 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  4,854 mL
                                                                  1,894 mL
   Blood products:
   Total out:
                                                                  1,330 mL
                                                                  1,380 mL
   Urine:
                                                                    855 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,674 mL
                                                                    754 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.28/56/95.[**Numeric Identifier 607**]/29/-1
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: very distal hs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   282 K/uL
   107 mg/dL
   0.6 mg/dL
   29 mEq/L
   5.0 mEq/L
   13 mg/dL
   103 mEq/L
   135 mEq/L
   26.5 %
   14.7 K/uL
        [image002.jpg]
                             [**2107-8-23**]  01:02 PM
                             [**2107-8-23**]  04:16 PM
                             [**2107-8-23**]  09:28 PM
                             [**2107-8-23**]  10:39 PM
                             [**2107-8-24**]  04:14 AM
                             [**2107-8-24**]  04:41 AM
                             [**2107-8-24**]  07:52 AM
   WBC
   14.7
   Hct
   26.5
   Plt
   282
   Cr
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   35
   26
   31
   27
   Glucose
   107
   Other labs: PT / PTT / INR:12.1/34.0/1.0, CK / CKMB /
   Troponin-T:50//<0.01, Differential-Neuts:94.3 %, Lymph:3.8 %, Mono:1.8
   %, Eos:0.0 %, Lactic Acid:1.4 mmol/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.3 mg/dL
   Imaging: ct chest: rll infiltrate
   ct a/p: awaiting final read
   Microbiology: ucx and bcx: neg
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 LEUKOCYTOSIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   68M with severe COPD, present with shortness of breath and severe
   hypotension in the setting of possibly running out of inhalers, poor po
   intake, with elevated WBC, lactate, now s/p aggressive fluid
   resuscitation and antibiotics with stable bp, lower lactate. CT chest
   did identify a small RLL infiltrate, which may be the source of
   infection. It is certainly possible that most of his low blood pressure
   is related to medication use (antihypertensives, opiates), with poor po
   intake. However, given such poor reserve, a conservative approach seems
   reasonable.
   Sepsis: ?PNA; also COPD
   -fu cultures (thus far negative)
   -favor short course of broad abx given readmissions for unclear cause
   and history of resistant bacteria; if all cultures negative would
   consider more narrow abx (s.a. augmentin)
   -cont stress dose steroids for now; though should be able to taper to
   smaller doses of prednisone over the next several days
   -will need reassessment of home antihypertensives
   -TTE today
 EF 55% with moderate pulmonary hypertension
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2107-8-23**] 02:35 PM
   18 Gauge - [**2107-8-23**] 02:36 PM
   Arterial Line - [**2107-8-23**] 08:52 PM
   22 Gauge - [**2107-8-24**] 12:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU;
   Total time spent: 35 minutes
   Patient is critically ill

2107-08-25 12:53:00 Physician Attending Progress Note
Chief Complaint: dyspnea, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68M with severe COPD, presented with dyspnea and severe hypotension,
   now improved with antibiotics and aggressive fluid resuscitation:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2107-8-24**] 10:46 AM
   -good response to furosemide and prn morphine
   -tte: mildly elevated RVSP
   -labored breathing, tachypneic
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2107-8-24**] 08:25 AM
   Azithromycin - [**2107-8-25**] 08:27 AM
   Vancomycin - [**2107-8-25**] 08:28 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-8-25**] 10:15 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2107-8-24**] 02:38 PM
   Omeprazole (Prilosec) - [**2107-8-25**] 08:27 AM
   Heparin Sodium (Prophylaxis) - [**2107-8-25**] 08:28 AM
   Morphine Sulfate - [**2107-8-25**] 10:16 AM
   Other medications:
   azithromycin, omepr, finasteride, singulair, colace, sqh, tums, vitd,
   bactrim, hydrocort, vanco, zosyn, fent td, a/a meds q4h, lisinopril,
   percocet, morphine; lasix 20
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: NPO
   Respiratory: No(t) Cough
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-8-25**] 12:51 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 110 (74 - 110) bpm
   BP: 155/73(104) {98/48(64) - 158/110(122)} mmHg
   RR: 26 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  4,630 mL
                                                                  1,898 mL
   PO:
                                                                  1,190 mL
                                                                  1,380 mL
   TF:
   IVF:
                                                                  3,440 mL
                                                                    518 mL
   Blood products:
   Total out:
                                                                  3,730 mL
                                                                  1,100 mL
   Urine:
                                                                  3,730 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    900 mL
                                                                    798 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.32/67/99.[**Numeric Identifier 128**]/31/5
   Physical Examination
   General Appearance: Thin, No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: very distant hs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: diminished breath sounds, no wheezing
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   284 K/uL
   165 mg/dL
   0.7 mg/dL
   31 mEq/L
   4.1 mEq/L
   12 mg/dL
   100 mEq/L
   137 mEq/L
   27.2 %
   22.2 K/uL
        [image002.jpg]
                             [**2107-8-23**]  01:02 PM
                             [**2107-8-23**]  04:16 PM
                             [**2107-8-23**]  09:28 PM
                             [**2107-8-23**]  10:39 PM
                             [**2107-8-24**]  04:14 AM
                             [**2107-8-24**]  04:41 AM
                             [**2107-8-24**]  07:52 AM
                             [**2107-8-24**]  02:03 PM
                             [**2107-8-25**]  04:17 AM
                             [**2107-8-25**]  11:19 AM
   WBC
   14.7
   22.2
   Hct
   26.5
   27.2
   Plt
   282
   284
   Cr
   0.6
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   35
   26
   31
   27
   29
   36
   Glucose
   107
   165
   Other labs: PT / PTT / INR:11.4/34.9/0.9, CK / CKMB /
   Troponin-T:50//<0.01, Differential-Neuts:94.3 %, Lymph:3.8 %, Mono:1.8
   %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.5 mg/dL
   Imaging: cxr: stable, improved
   Microbiology: all cx negative
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 LEUKOCYTOSIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   68M with severe COPD, presented with dyspnea and severe hypotension,
   now improved with antibiotics and aggressive fluid resuscitation. PNA
   is the only possible source of infection. All cultures have been
   negative. Patient does have a history of resistant bacteria, and if his
   clinical status changes we will restart vanco/zosyn.
   Will narrow antibiotics to Unasyn (?pna) and decrease steroids (HC 50mg
   q12h) given lack of convincing evidence of COPD exacerbation. Patient
   reports improved respiratory symptoms overall.
   Pain control appears adequate with the current regimen, including prn
   morphine.
   Finally, there is singificant concern for aspiration given exam,
   observation, and location of infiltrate. Patient will have a video
   swallow this afternoon.
> no frank aspiration but at risk
   Persistent lactic acidosis
 check guaiac stools
   ICU Care
   Nutrition: awaiting swallow eval
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2107-8-23**] 02:36 PM
   Arterial Line - [**2107-8-23**] 08:52 PM
   22 Gauge - [**2107-8-24**] 12:25 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU, likely floor tomorrow
   Total time spent: 35 minutes
   Patient is critically ill

2107-08-26 10:54:00 Physician Attending Progress Note
Chief Complaint: dyspnea, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68M with severe COPD, presented with dyspnea and severe hypotension,
   concern for SIRS/sepsis, though no source identified.
   24 Hour Events:
 FLUOROSCOPY - At [**2107-8-25**] 01:31 PM
   -borderline video swallow
   -abx changed
   -steroids down
   -uneventful night
   History obtained from Patient
   Allergies:
   Levaquin (Oral) (Levofloxacin)
   Last dose of Antibiotics:
   Vancomycin - [**2107-8-25**] 08:28 AM
   Piperacillin/Tazobactam (Zosyn) - [**2107-8-25**] 10:15 AM
   Bactrim (SMX/TMP) - [**2107-8-26**] 08:22 AM
   Azithromycin - [**2107-8-26**] 08:22 AM
   Ampicillin/Sulbactam (Unasyn) - [**2107-8-26**] 10:09 AM
   Infusions:
   Other ICU medications:
   Omeprazole (Prilosec) - [**2107-8-26**] 08:22 AM
   Heparin Sodium (Prophylaxis) - [**2107-8-26**] 08:22 AM
   Other medications:
   azithrom, omepr, finasteride, keppra, fosamax, vitd, bactrim, fent
   patch, lisinopril, colace, solumedrol 50q12, riss, percocet prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea
   Genitourinary: No(t) Dysuria, Foley
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2107-8-26**] 10:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 107 (85 - 118) bpm
   BP: 142/64(88) {89/51(70) - 170/111(137)} mmHg
   RR: 23 (17 - 31) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  2,860 mL
                                                                    596 mL
   PO:
                                                                  2,020 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    840 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  2,340 mL
                                                                    880 mL
   Urine:
                                                                  2,340 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    520 mL
                                                                   -284 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: 7.32/67/99.[**Numeric Identifier 128**]/37/5
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   No(t) Anxious
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: very distal hs
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Wheezes : , Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   310 K/uL
   114 mg/dL
   0.6 mg/dL
   37 mEq/L
   4.5 mEq/L
   12 mg/dL
   99 mEq/L
   140 mEq/L
   28.4 %
   15.5 K/uL
        [image002.jpg]
                             [**2107-8-23**]  04:16 PM
                             [**2107-8-23**]  09:28 PM
                             [**2107-8-23**]  10:39 PM
                             [**2107-8-24**]  04:14 AM
                             [**2107-8-24**]  04:41 AM
                             [**2107-8-24**]  07:52 AM
                             [**2107-8-24**]  02:03 PM
                             [**2107-8-25**]  04:17 AM
                             [**2107-8-25**]  11:19 AM
                             [**2107-8-26**]  03:44 AM
   WBC
   14.7
   22.2
   15.5
   Hct
   26.5
   27.2
   28.4
   Plt
   282
   284
   310
   Cr
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   TCO2
   26
   31
   27
   29
   36
   Glucose
   107
   165
   114
   Other labs: PT / PTT / INR:11.4/34.9/0.9, CK / CKMB /
   Troponin-T:50//<0.01, Differential-Neuts:94.3 %, Lymph:3.8 %, Mono:1.8
   %, Eos:0.0 %, Lactic Acid:2.1 mmol/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.2 mg/dL
   Imaging: CXR: not completely visualized L side; stable
   Microbiology: still all negative
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 HYPOTENSION (NOT SHOCK)
 LEUKOCYTOSIS
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   68M with severe COPD, presented with dyspnea and severe hypotension,
   concern for SIRS/sepsis, though no source identified. He is improving
   slowly on abx and steroids. Will plan to treat for 8 days of abx; can
   transition from Unasyn to Augmentin. Will continue steroids at the
   current dose, and likely taper tomorrow to prednisone 60 daily.
   Decrease nebs to standing q6hr + prn.
   Will need PT evaluation. Strict aspiration precaution with lifestyle
   modifications per rehab recs.
   ICU Care
   Nutrition: heart healthy
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2107-8-23**] 02:36 PM
   Arterial Line - [**2107-8-23**] 08:52 PM
   22 Gauge - [**2107-8-24**] 12:25 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Communication:  Comments:
   Code status: Full code
   Disposition : Transfer to floor
   Total time spent: 35 minutes